US07049342B2
2-Ethyl-3-[3-[3-[4-(trifluoromethyl)phenyl]propionyl]-4-methoxyphenyl]propanoic acid
A mixture of ethyl-3-[3-[2-ethoxycarbonyl-3-[4-(trifluoromethyl)phenyl]propionyl]-4-methoxyphenyl]-2-ethylpropanoate (2.62 g, 5.15 mmol), glacial acetic acid (10 mL) and concentrated hydrochloric acid (5 mL) was refluxed for 5 hours. After cooling, the mixture was poured into ice water, which was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (eluent n-hexane:ethyl acetate:acetic acid=400:100:1.5 v/v/v) to afford 1.47 g (70%) of the title compound as a pale yellow oil.

reactant | ethyl-3-[3-[2-ethoxycarbonyl-3-[4-(trifluoromethyl)phenyl]propionyl]-4-methoxyphenyl]-2-ethylpropanoate | 5.15 mmol, 2.62 g | C(C)OC(C(CC1=CC(=C(C=C1)OC)C(C(CC1=CC=C(C=C1)C(F)(F)F)C(=O)OCC)=O)CC)=O | C27H31F3O6
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-Ethyl-3-[3-[3-[4-(trifluoromethyl)phenyl]propionyl]-4-methoxyphenyl]propanoic acid | 1.47 g, 70% | C(C)C(C(=O)O)CC1=CC(=C(C=C1)OC)C(CCC1=CC=C(C=C1)C(F)(F)F)=O | C22H23F3O4
